US07202364B2
To a suspension of 6-fluoro-2-naphthoic acid (450 mg, 2.37 mmol) and triethylamine (0.66 mL, 4.73 mmol) in 1,4-dioxane (30 mL) at room temperature, is added DPPA (0.77 mL, 3.55 mmol). After stirring at room temperature for 2.5 hours, ethanol (1.38 mL, 23.7 mmol) is added and the reaction is heated to reflux temperature for 12 hours. After cooling to room temperature, the mixture is partitioned between EtOAc and water. The organic layer is washed with brine, dried (Na2SO4) and concentrated by rotary evaporator to give an oil. Flash chromatography on silica gel (3:1 hexanes/EtOAc) gives N-(6-fluoro-2-naphthyl)carbamic acid ethyl ester as an oil.

reactant | 6-fluoro-2-naphthoic acid | 2.37 mmol, 450 mg | FC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H7FO2
reactant | triethylamine | 4.73 mmol, 0.66 mL | C(C)N(CC)CC | C6H15N
reactant | DPPA | 3.55 mmol, 0.77 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | ethanol | 23.7 mmol, 1.38 mL | C(C)O | C2H6O
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | N-(6-fluoro-2-naphthyl)carbamic acid ethyl ester | C(C)OC(NC1=CC2=CC=C(C=C2C=C1)F)=O | C13H12FNO2
